### PR TITLE
feat(Combinatorics/SimpleGraph/Paths): some lemmas about inducing walks

### PR DESCRIPTION
**Pull request by Formalistic03**
Could also be done via `SimpleGraph.Walk.map_induce`, but I thought that doing it directly is not much worse.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean [hunk 1]
```diff
@@ -209,11 +209,23 @@ protected def induce {u v : V} :
 @[simp] lemma induce_cons (huu' : G.Adj u u') (w : G.Walk u' v) (hw) :
     (w.cons huu').induce s hw = .cons (induce_adj.2 huu') (w.induce s <| by simp_all) := rfl
 
+lemma nil_induce {w : G.Walk u v} (hw) : (w.induce s hw).Nil ↔ w.Nil := by cases w <;> simp
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean:212]:
```suggestion
@[simp]
lemma nil_induce {w : G.Walk u v} (hw) : (w.induce s hw).Nil ↔ w.Nil := by cases w <;> simp
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean [hunk 2]
```diff
@@ -209,11 +209,23 @@ protected def induce {u v : V} :
...
+
+lemma length_induce {u v} : ∀ (w : G.Walk u v) (hw), (w.induce s hw).length = w.length
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean:214]:
```suggestion
lemma length_induce {u v} : ∀ {w : G.Walk u v} (hw), (w.induce s hw).length = w.length
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean [hunk 3]
```diff
@@ -209,11 +209,23 @@ protected def induce {u v : V} :
...
+  | nil, _ => rfl
+  | cons .., _ => by simp [length_induce]
+
 @[simp] lemma support_induce {u v : V} :
     ∀ (w : G.Walk u v) (hw), (w.induce s hw).support = w.support.attachWith _ hw
   | .nil, hw => rfl
   | .cons (v := u') hu w, hw => by simp [support_induce]
 
+lemma edges_induce {u v} : ∀ (w : G.Walk u v) (hw),
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean:223]:
```suggestion
lemma edges_induce {u v} : ∀ {w : G.Walk u v} (hw),
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean [hunk 4]
```diff
@@ -209,11 +209,23 @@ protected def induce {u v : V} :
...
+    (w.induce s hw).edges = w.edges.attach.map
+      fun ⟨e, he⟩ ↦ Sym2.attachWith e fun x hx ↦ hw x (mem_support_of_mem_edges he hx)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean:225]:
```suggestion
      fun ⟨e, he⟩ ↦ e.attachWith (hw · <| mem_support_of_mem_edges he ·)
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean [hunk 5]
```diff
@@ -209,11 +209,23 @@ protected def induce {u v : V} :
...
+  | nil, _ => rfl
+  | cons .., _ => by simpa [edges_induce] using (by rfl)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean:227]: Looks like we're missing a `simp` lemma for `Sym2.attachWith`:
```lean
@[simp]
theorem attachWith_mk {P : α → Prop} (a b : α) (h : ∀ x ∈ s(a, b), P x) :
    s(a, b).attachWith h = s(⟨a, h a <| Sym2.mem_mk_left ..⟩, ⟨b, h b <| Sym2.mem_mk_right ..⟩) :=
  rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean [hunk 6]
```diff
@@ -233,11 +233,24 @@ protected def induce {u v : V} :
 @[simp] lemma induce_cons (huu' : G.Adj u u') (w : G.Walk u' v) (hw) :
     (w.cons huu').induce s hw = .cons (induce_adj.2 huu') (w.induce s <| by simp_all) := rfl
 
+@[simp]
+lemma nil_induce {w : G.Walk u v} (hw) : (w.induce s hw).Nil ↔ w.Nil := by cases w <;> simp
+
+lemma length_induce {u v} : ∀ {w : G.Walk u v} (hw), (w.induce s hw).length = w.length
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean:239]:
```suggestion
@[simp]
lemma length_induce {u v} : ∀ {w : G.Walk u v} (hw), (w.induce s hw).length = w.length
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 7]
```diff
@@ -1227,6 +1227,37 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+lemma isTrail_induce {w : G.Walk u v} (hw : ∀ x ∈ w.support, x ∈ s) :
+    (w.induce s hw).IsTrail ↔ w.IsTrail := by
+  rw [isTrail_def, isTrail_def, edges_induce, List.nodup_map_iff ?_, List.nodup_attach]
+  intro a b h
+  apply Subtype.val_injective
+  have := a.val.attachWith_map_subtypeVal fun x hx ↦ hw x (mem_support_of_mem_edges a.prop hx)
+  have := b.val.attachWith_map_subtypeVal fun x hx ↦ hw x (mem_support_of_mem_edges b.prop hx)
+  simp_all
+
+lemma isPath_induce {p : G.Walk u v} (hw : ∀ x ∈ p.support, x ∈ s) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:1245]: Could you add `{p : G.Walk u v}` (or `w` if you prefer) as a `variable`, and also `{c : G.Walk v v}`?

File: Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean [hunk 8]
```diff
@@ -233,11 +233,24 @@ protected def induce {u v : V} :
...
+  | nil, _ => rfl
+  | cons .., _ => by simp [length_induce]
+
 @[simp] lemma support_induce {u v : V} :
     ∀ (w : G.Walk u v) (hw), (w.induce s hw).support = w.support.attachWith _ hw
   | .nil, hw => rfl
   | .cons (v := u') hu w, hw => by simp [support_induce]
 
+lemma edges_induce {u v} : ∀ {w : G.Walk u v} (hw),
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean:248]: Could you also add a lemma for `darts`? Perhaps
```lean
lemma darts_induce {u v} : ∀ {w : G.Walk u v} (hw),
    (w.induce s hw).darts = w.darts.attach.map fun ⟨d, hd⟩ ↦
      ⟨(⟨_, hw _ <| dart_fst_mem_support_of_mem_darts w hd⟩,
        ⟨_, hw _ <| dart_snd_mem_support_of_mem_darts w hd⟩), by simp⟩
  | nil, _ => rfl
  | cons .., _ => by simp [darts_induce]
```
but there might be a better RHS, not sure

File: Mathlib/Data/List/Nodup.lean [hunk 9]
```diff
@@ -225,6 +225,11 @@ theorem Nodup.pmap {p : α → Prop} {f : ∀ a, p a → β} {l : List α} {H}
     (hf : ∀ a ha b hb, f a ha = f b hb → a = b) (h : Nodup l) : Nodup (pmap f l H) := by
   grind
 
+theorem nodup_attachWith {l : List α} (P : α → Prop) (H : ∀ x ∈ l, P x) :
+    (l.attachWith P H).Nodup ↔ l.Nodup :=
+  ⟨fun hn ↦ (attachWith_map_subtype_val H) ▸ (hn.map Subtype.val_injective),
+   fun hn ↦ hn.pmap fun _ _ _ _ h ↦ Subtype.mk.inj h⟩
```
Comment (SnirBroshi) [inline Mathlib/Data/List/Nodup.lean:231]:
```suggestion
@[simp]
theorem nodup_attachWith {P : α → Prop} {h : ∀ x ∈ l, P x} : (l.attachWith P h).Nodup ↔ l.Nodup :=
  ⟨(attachWith_map_subtype_val h ▸ ·.map Subtype.val_injective), .pmap <| by simp⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 10]
```diff
@@ -1227,6 +1227,37 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
 
 end Walk
 
+/-! ### Inducing -/
+
+namespace Walk
+
+variable {V : Type*} {G : SimpleGraph V} {u v : V} {s : Set V}
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:1234]:
```suggestion
variable {G} {u v : V} {s : Set V}
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 11]
```diff
@@ -1227,6 +1227,37 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+
+lemma isTrail_induce {w : G.Walk u v} (hw : ∀ x ∈ w.support, x ∈ s) :
+    (w.induce s hw).IsTrail ↔ w.IsTrail := by
+  rw [isTrail_def, isTrail_def, edges_induce, List.nodup_map_iff ?_, List.nodup_attach]
+  intro a b h
+  apply Subtype.val_injective
+  have := a.val.attachWith_map_subtypeVal fun x hx ↦ hw x (mem_support_of_mem_edges a.prop hx)
+  have := b.val.attachWith_map_subtypeVal fun x hx ↦ hw x (mem_support_of_mem_edges b.prop hx)
+  simp_all
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:1243]:
```suggestion
  exact fun _ _ h ↦ by simpa [Subtype.val_inj] using congr(($h).map Subtype.val)
```
Could you also add this to the `Sym2` API
```lean
theorem attachWith_inj {P : α → Prop} {z₁ z₂ : Sym2 α} {h₁ : ∀ a ∈ z₁, P a} {h₂ : ∀ a ∈ z₂, P a}
    (h : z₁.attachWith h₁ = z₂.attachWith h₂) : z₁ = z₂ := by
  simpa using congr(($h).map Subtype.val)
```
and then this could be
```suggestion
  exact fun _ _ h ↦ by simpa [Subtype.val_inj] using Sym2.attachWith_inj h
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 12]
```diff
@@ -1227,6 +1227,37 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
 
 end Walk
 
+/-! ### Inducing -/
+
+namespace Walk
+
+variable {V : Type*} {G : SimpleGraph V} {u v : V} {s : Set V}
+
+lemma isTrail_induce {w : G.Walk u v} (hw : ∀ x ∈ w.support, x ∈ s) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:1236]:
```suggestion
@[simp]
lemma isTrail_induce {w : G.Walk u v} (hw : ∀ x ∈ w.support, x ∈ s) :
```
and also for the other 3

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 13]
```diff
@@ -1227,6 +1227,37 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+  simp_all
+
+lemma isPath_induce {p : G.Walk u v} (hw : ∀ x ∈ p.support, x ∈ s) :
+    (p.induce s hw).IsPath ↔ p.IsPath := by
+  rw [isPath_def, isPath_def, support_induce, List.nodup_attachWith]
+
+lemma isCircuit_induce {c : G.Walk v v} (hc : ∀ x ∈ c.support, x ∈ s) :
+    (c.induce s hc).IsCircuit ↔ c.IsCircuit := by
+  iterate 2 rw [isCircuit_def, Ne, eq_nil_iff_nil]
+  rw [isTrail_induce, nil_induce]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:1252]:
```suggestion
  simp_rw [isCircuit_def, ne_eq, eq_nil_iff_nil, isTrail_induce, nil_induce]
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 14]
```diff
@@ -1227,6 +1227,37 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+
+lemma isCycle_induce {c : G.Walk v v} (hc : ∀ x ∈ c.support, x ∈ s) :
+    (c.induce s hc).IsCycle ↔ c.IsCycle := by
+  iterate 2 rw [isCycle_def, Ne, eq_nil_iff_nil]
+  rw [isTrail_induce, nil_induce, support_induce, List.tail_attachWith, List.nodup_attachWith]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:1257]:
```suggestion
  simp_rw [isCycle_def, ne_eq, eq_nil_iff_nil, isTrail_induce, nil_induce, support_induce,
    List.tail_attachWith, List.nodup_attachWith]
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 15]
```diff
@@ -1227,6 +1227,30 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
 end Walk
 
+/-! ### Inducing -/
+
+namespace Walk
+
+variable {G} {u v : V} {s : Set V} {p : G.Walk u v} {c : G.Walk u u}
+
+@[simp]
+lemma isTrail_induce (hp : ∀ x ∈ p.support, x ∈ s) : (p.induce s hp).IsTrail ↔ p.IsTrail := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
lemma isTrail_induce {hp : ∀ x ∈ p.support, x ∈ s} : (p.induce s hp).IsTrail ↔ p.IsTrail := by
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 16]
```diff
@@ -1227,6 +1227,30 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+  rw [isTrail_def, isTrail_def, edges_induce, List.nodup_map_iff ?_, List.nodup_attach]
+  intro _ _ h
+  simpa [Subtype.val_inj] using Sym2.attachWith_inj h
+
+lemma isPath_induce (hp : ∀ x ∈ p.support, x ∈ s) : (p.induce s hp).IsPath ↔ p.IsPath := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
@[simp]
lemma isPath_induce {hp : ∀ x ∈ p.support, x ∈ s} : (p.induce s hp).IsPath ↔ p.IsPath := by
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 17]
```diff
@@ -1227,6 +1227,30 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+  rw [isPath_def, isPath_def, support_induce, List.nodup_attachWith]
+
+lemma isCircuit_induce (hc : ∀ x ∈ c.support, x ∈ s) : (c.induce s hc).IsCircuit ↔ c.IsCircuit := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
@[simp]
lemma isCircuit_induce {hc : ∀ x ∈ c.support, x ∈ s} : (c.induce s hc).IsCircuit ↔ c.IsCircuit := by
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 18]
```diff
@@ -1227,6 +1227,30 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+  simp_rw [isCircuit_def, ne_eq, eq_nil_iff_nil, isTrail_induce, nil_induce]
+
+lemma isCycle_induce (hc : ∀ x ∈ c.support, x ∈ s) : (c.induce s hc).IsCycle ↔ c.IsCycle := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
@[simp]
lemma isCycle_induce {hc : ∀ x ∈ c.support, x ∈ s} : (c.induce s hc).IsCycle ↔ c.IsCycle := by
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean [hunk 19]
```diff
@@ -233,11 +233,32 @@ protected def induce {u v : V} :
...
+  | nil, _ => rfl
+  | cons .., _ => by simp [length_induce]
+
 @[simp] lemma support_induce {u v : V} :
     ∀ (w : G.Walk u v) (hw), (w.induce s hw).support = w.support.attachWith _ hw
   | .nil, hw => rfl
   | .cons (v := u') hu w, hw => by simp [support_induce]
 
+lemma darts_induce {u v} : ∀ {w : G.Walk u v} (hw),
+  (w.induce s hw).darts = w.darts.attach.map fun ⟨d, hd⟩ ↦ Dart.mk
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Maps.lean]:
```suggestion
  (w.induce s hw).darts = w.darts.attach.map fun ⟨d, hd⟩ ↦ .mk
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 20]
```diff
@@ -1227,6 +1227,33 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+/-! ### Inducing -/
+
+namespace Walk
+
+variable {G} {u v : V} {s : Set V} {p : G.Walk u v} {c : G.Walk u u}
+
+@[simp]
+lemma isTrail_induce {hp : ∀ x ∈ p.support, x ∈ s} : (p.induce s hp).IsTrail ↔ p.IsTrail := by
+  rw [isTrail_def, isTrail_def, edges_induce, List.nodup_map_iff ?_, List.nodup_attach]
+  intro _ _ h
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
  rw [isTrail_def, isTrail_def, edges_induce, List.nodup_map_iff fun _ _ h ↦ ?_, List.nodup_attach]
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 21]
```diff
@@ -1227,6 +1227,33 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+  simpa [Subtype.val_inj] using Sym2.attachWith_inj h
+
+@[simp]
+lemma isPath_induce {hp : ∀ x ∈ p.support, x ∈ s} : (p.induce s hp).IsPath ↔ p.IsPath := by
+  rw [isPath_def, isPath_def, support_induce, List.nodup_attachWith]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]: Now with everything tagged `@[simp]`, this can be simply
```suggestion
  simp [isPath_def]
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 22]
```diff
@@ -1227,6 +1227,33 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+
+@[simp]
+lemma isCircuit_induce {hc : ∀ x ∈ c.support, x ∈ s} : (c.induce s hc).IsCircuit ↔ c.IsCircuit := by
+  simp_rw [isCircuit_def, ne_eq, eq_nil_iff_nil, isTrail_induce, nil_induce]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
  simp [isCircuit_def]
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 23]
```diff
@@ -1227,6 +1227,33 @@ protected alias ⟨_, IsCycle.transfer⟩ := isCycle_transfer
...
+
+@[simp]
+lemma isCycle_induce {hc : ∀ x ∈ c.support, x ∈ s} : (c.induce s hc).IsCycle ↔ c.IsCycle := by
+  simp_rw [isCycle_def, ne_eq, eq_nil_iff_nil, isTrail_induce, nil_induce, support_induce,
+    List.tail_attachWith, List.nodup_attachWith]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
  simp [isCycle_def]
```
